US06541501B2
Ethyl-7,8-diamino-chroman-2-carboxylate
A mixture of ethyl-7-benzylamino-8-nitro-4-oxo-4H-chromene-2-carboxylate (1.1 g, 3 mmol), Pd/C (0.10 g, 10%), and HCl (12 N 2 mL) in ethanol (90 mL) was hydrogenated for 12 hours. The catalyst was filtered through diatomaceous earth and solvent was removed under vacuum. The residue was dissolved in EtOAc (100 mL) and then washed with saturated NaHCO3 and concentrated to give 684 mg (97%) of product as a thick oil. The product was used without any further purification. 1H NMR (400 MHz), CDCl3) δ1.26 (t, J=7.1 Hz, 3H) 2.19 (m, 2H), 2.70 (m, 1H), 3.18) bs, 4H), 4.22 (q, J=7.1 Hz, 2H), 4.66 (m, 1H), 6.30 (d, J=8 Hz, 1H), 6.40 (d, J=8 Hz,1H).

reactant | ethyl-7-benzylamino-8-nitro-4-oxo-4H-chromene-2-carboxylate | 3 mmol, 1.1 g | C(C)OC(=O)C=1OC2=C(C(=CC=C2C(C1)=O)NCC1=CC=CC=C1)[N+](=O)[O-] | C19H16N2O6
reactant | HCl | 12 N, 2 mL | Cl | ClH
solvent | ethanol | 90 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.10 g | [Pd] | Pd
product | Ethyl-7,8-diamino-chroman-2-carboxylate | 684 mg, 97% | C(C)OC(=O)C1OC2=C(C(=CC=C2CC1)N)N | C12H16N2O3
